US04966900
5. 3,4-Dihydroxybenzohydrazide
120 g of 3,4-dihydroxybenzoic acid methyl ester was subjected to reaction with 340 ml of methanol and 340 ml of hydrazine hydrate over 3 days at room temperature. Then 340 ml of water was added thereto and the solvent was evaporated in vacuum. Addition of water and evaporation were repeated twice. Subsequently the product was crystallized from 340 ml of water. m.p. 260° C. (decomposed).

reactant | 3,4-dihydroxybenzoic acid methyl ester | 120 g | COC(C1=CC(=C(C=C1)O)O)=O | C8H8O4
reactant | methanol | 340 ml | CO | CH4O
reactant | hydrazine hydrate | 340 ml | O.NN
solvent | water | 340 ml | O | H2O
product | 3,4-Dihydroxybenzohydrazide | OC=1C=C(C(=O)NN)C=CC1O | C7H8N2O3
